US05488149
Preparation of 5-[N-{(1S, 2S)-2-(4-biphenylyl)-3-(3,4-dichlorophenyl)-1-methylpropyl}carbamoyl]pentanoic acid
Compounds of Examples 67 to 71 were prepared in the same manner as in Example 66 except that (1S, 2S)-2-(4-biphenylyl)-3-(3,4-dichlorophenyl)-1-methylpropylamine and monoethyl adipate used as the starting materials in the above reaction were changed to the respective corresponding amine compounds and/or monoester derivatives.

reactant | (1S, 2S)-2-(4-biphenylyl)-3-(3,4-dichlorophenyl)-1-methylpropylamine | C1(=CC=C(C=C1)[C@@H]([C@H](C)N)CC1=CC(=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C22H21Cl2N
reactant | monoethyl adipate | C(CCCCC(=O)[O-])(=O)OCC
product | 5-[N-{(1S, 2S)-2-(4-biphenylyl)-3-(3,4-dichlorophenyl)-1-methylpropyl}carbamoyl]pentanoic acid | C1(=CC=C(C=C1)[C@@H]([C@H](C)NC(=O)CCCCC(=O)O)CC1=CC(=C(C=C1)Cl)Cl)C1=CC=CC=C1 | C28H29Cl2NO3
